US04265815
(A) (11β)-16-Bromo-17-(ethylthio)-9-fluoro-11-hydroxyandrosta-1,4,16-trien-3-one
A solution of (11β)-17-(ethylthio)-9-fluoro-11-hydroxyandrosta-1,4,16-trien-3-one (181 mg) in dichloromethane (10 ml) containing N-bromosuccinimide (98 mg) is stirred at room temperature for 2 hours and the reaction mixture is subjected to preparative thin layer chromatography on silica gel plates to isolate the title compound.

reactant | (11β)-17-(ethylthio)-9-fluoro-11-hydroxyandrosta-1,4,16-trien-3-one | 181 mg | C(C)SC=1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O | C21H27FO2S
reactant | N-bromosuccinimide | 98 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (11β)-16-Bromo-17-(ethylthio)-9-fluoro-11-hydroxyandrosta-1,4,16-trien-3-one | BrC1=C([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O)SCC | C21H26BrFO2S
